US05811433
g. Ethyl 2-(4,5,6-trichloro-2-methyl-nicotinoyl)-3-cyclopropylamino-acrylate
27 g (0.07 mol) of ethyl 2-(4,5,6-trichloro-2-methyl-nicotinoyl)-3-ethoxyacrylate are placed at 0° C. in 93 ml of ethanol, and 4.3 g (0.07 mol) of cyclopropylamine in 34 ml of ethanol are added dropwise. The mixture is stirred at room temperature for thirty minutes and cooled to 0° C. and the product which precipitates is isolated and washed with cold ethanol.

reactant | ethyl 2-(4,5,6-trichloro-2-methyl-nicotinoyl)-3-ethoxyacrylate | 0.07 mol, 27 g | ClC1=C(C(=NC(=C1C(=O)C(C(=O)OCC)=COCC)C)Cl)Cl | C14H14Cl3NO4
reactant | cyclopropylamine | 0.07 mol, 4.3 g | C1(CC1)N | C3H7N
solvent | ethanol | 93 ml | C(C)O | C2H6O
solvent | ethanol | 34 ml | C(C)O | C2H6O
product | Ethyl 2-(4,5,6-trichloro-2-methyl-nicotinoyl)-3-cyclopropylamino-acrylate | ClC1=C(C(=NC(=C1C(=O)C(C(=O)OCC)=CNC1CC1)C)Cl)Cl | C15H15Cl3N2O3
